US04870219
358 g of [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-ethyl]-triphenylphosphonium bromide are suspended in 600 ml of tetrahydrofuran and treated at 0° with 400 ml of n-butyllithium (1.6 molar in hexane). After stirring at 0° for 30 minutes a solution of 78.5 g of p-methoxybenzaldehyde in 200 ml of tetrahydrofuran is added dropwise thereto and the mixture is stirred at room temperature for a further 2 hours. The reaction mixture is subsequently poured into 2 l of methanol/water (6:4) and extracted repeatedly with hexane. The organic phase is washed three times with water and, after drying with sodium sulphate, evaporated. The crystalline residue can be recrystallized from hexane and gives 138 g of 1,2,3,4-tetrahydro-6-[(E)-p-methoxy-α-methylstyryl]-1,1,4,4-tetramethylnaphthalene, melting point 108°-110°.

reactant | [1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-ethyl]-triphenylphosphonium bromide | 358 g | [Br-].CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyllithium | 1.6 molar, 400 ml | C(CCC)[Li]
reactant | p-methoxybenzaldehyde | 78.5 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methanol water | 2 l | CO.O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-tetrahydro-6-[(E)-p-methoxy-α-methylstyryl]-1,1,4,4-tetramethylnaphthalene | 138 g | COC1=CC=C(/C=C(\C)/C=2C=C3C(CCC(C3=CC2)(C)C)(C)C)C=C1 | C24H30O
